US07279487B2
Step 7: Preparation of 1-{2-[(dimethylamino)sulfonyl]ethyl}-N-(4-fluorobenzyl)-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide
Methyl 1-{2-[(dimethylamino)sulfonyl]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate (0.3 g, 0.84 mmol) was suspended in 8 mL of absolute EtOH and treated with 4-fluorobenzyl amine (0.29 mL, 2.53 mmol). The mixture was brought to reflux for 2.5 hours, cooled, and the solids collected and washed with a little cold EtOH to give the product as a white solid.

reactant | Methyl 1-{2-[(dimethylamino)sulfonyl]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | 0.84 mmol, 0.3 g | CN(S(=O)(=O)CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)OC)=O)C | C14H17N3O6S
reactant | 4-fluorobenzyl amine | 2.53 mmol, 0.29 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | EtOH | 8 mL | CCO | C2H6O
product | 1-{2-[(dimethylamino)sulfonyl]ethyl}-N-(4-fluorobenzyl)-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | CN(S(=O)(=O)CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)NCC1=CC=C(C=C1)F)=O)C | C20H21FN4O5S
